US08039455B2
b) 3-Nitro-5-(2-oxo-pyrrolidin-1-yl)-benzoic acid
The mixture of 3.37 g (13.7 mmol) 3-bromo-5-nitro-benzoic acid, 1.74 g (27.4 mmol, 2 eq) cuper powder, 3.18 ml (41 mmol, 3 eq) 2-pyrrolidinone and 1.89 g (13.7 mmol, 1 eq) potassium carbonate is stirred at 150° C. for 16 h. Another 10 ml 2-pyrrolidinone, 1.74 g (27.4 mmol, 2 eq) copper powder and 1.89 g (13.7 mmol, 1 eq) potassium carbonate are added and the mixture is again stirred vigorously for 5.5 h at 150° C. After cooling to rt the reaction is diluted with DCM and 5% aq potassium carbonate. Solids are filtered off and the aqueous layer is acidified with 10% aq potassium hydrogensulfate solution. Extraction with DCM, drying over sodium sulfate, and evaporation of the solvent at reduced pressure gives some product. On standing more product precipitates from the aqueous layer, is filtered off and dried in vacuum.

reactant | 3-bromo-5-nitro-benzoic acid | 13.7 mmol, 3.37 g | BrC=1C=C(C(=O)O)C=C(C1)[N+](=O)[O-] | C7H4BrNO4
reactant | 2-pyrrolidinone | 41 mmol, 3.18 ml, 3 eq | N1C(CCC1)=O | C4H7NO
reactant | 2-pyrrolidinone | 10 ml | N1C(CCC1)=O | C4H7NO
solvent | DCM | C(Cl)Cl | CH2Cl2
solvent | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
catalyst | copper | 27.4 mmol, 1.74 g, 2 eq | [Cu] | Cu
solvent | potassium carbonate | 13.7 mmol, 1.89 g, 1 eq | C([O-])([O-])=O.[K+].[K+]
solvent | potassium carbonate | 13.7 mmol, 1.89 g, 1 eq | C([O-])([O-])=O.[K+].[K+]
product | 3-Nitro-5-(2-oxo-pyrrolidin-1-yl)-benzoic acid | [N+](=O)([O-])C=1C=C(C(=O)O)C=C(C1)N1C(CCC1)=O | C11H10N2O5
